US06479531B1
Step a. [5-(2-Adamantan-1-yl-ethyl)-1-methyl-2-o-tolyl-1H-imidazol-4-yl]-methanol
Lithium aluminium hydride (355 mg, 9.34 mmol) was added in small portions to an ice cooled solution of 5-(2-adamantan-1-yl-ethyl)-1-methyl-2-o-tolyl-1H-imidazole-4-carboxylic acid ethyl ester (Example 73, step a) (1.83 g, 4.67 mmol) in THF (20 ml). The suspension was allowed to warm to room temperature and stirred for 2 h. The reaction mixture was quenched sequentially with water (360 μl ), sodium hydroxide (2M, 360 μl) and water (3×360 μl), diluted with ethyl acetate (50 ml) and treated with magnesium sulfate. The suspension was filtered through celite, the solid residues were washed with ethyl acetate (20 ml) and chloroform (100 ml) and the filtrate was evaporated to afford white solid (2.15 g). 1H NMR (300 MHz, d6-DMSO/D2O) 7.34-7.24 (4H, m), 4.60 (2H, s), 3.32 (3H, s), 2.61 (2H, m), 2.40 (1H, br s), 2.20 (3H, s), 2.01 (3H, br s), 1.78-1.58 (12H, m), 1.32 (2H, m).

reactant | Lithium aluminium hydride | 9.34 mmol, 355 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-(2-adamantan-1-yl-ethyl)-1-methyl-2-o-tolyl-1H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(N(C1CCC12CC3CC(CC(C1)C3)C2)C)C2=C(C=CC=C2)C | C26H34N2O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | [5-(2-Adamantan-1-yl-ethyl)-1-methyl-2-o-tolyl-1H-imidazol-4-yl]-methanol | 2.15 g | C12(CC3CC(CC(C1)C3)C2)CCC2=C(N=C(N2C)C2=C(C=CC=C2)C)CO | C24H32N2O
